* C:\Users\marcu\OneDrive - FH JOANNEUM\FHJoanneum\ECE_5_WS2025\Model_Based_Design\ModelBasedDesign_TUs\TU3\LTSpice\RLC_serial.asc
* Generated by LTspice 24.1.9 for Windows.
V1 u_in 0 PWL(2 0 2.0001 3)
R1 N001 u_in 56k
L1 N001 u_c 100µ
C1 0 u_c 10µ
.tran 0 10 0 1000
.backanno
.end
